US06518423B1
Into a solution of 2.7 g of lithium aluminum hydride in tetrahydrofuran (200 ml) was slowly dropped at 0° C. a solution of 21.5 g of ethyl 3-(1-benzylpiperidin-4-yl)-2,2-dimethylpropanoate in tetrahydrofuran (20 ml) and the resulting mixture was stirred at room temperature for 30 minutes. After adding water and a 10% aqueous solution of sodium hydroxide to the reaction mixture, the insoluble matters were filtered off. After distilling off the solvent under reduced pressure, 19 g of crude 3-(1-benzylpiperidin-4-yl)-2,2-dimethylpropanol was obtained as a yellow oily substance. This oily substance was dissolved in 300 ml of ethanol. After adding 20 ml of acetic acid, the mixture was subjected to hydrogenation at ordinary temperature under atmospheric pressure for 12 hours. After filtering off palladium-carbon, the solvent was concentrated under reduced pressure to thereby give 23 g of crude 3-(piperidin-4-yl)-2,2-dimethylpropanol as a yellow oily substance. This crude product was further dissolved in 200 ml of dichloromethane and 23 ml of pyridine was added thereto. Then 15.5 g of di-tert-butyl dicarbonate was dropped thereinto at 0° C. and the resulting mixture was reacted at room temperature for 2 hours. After adding water, the reaction mixture was extracted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 14.9 g of the title compound as colorless crystals.

reactant | lithium aluminum hydride | 2.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3-(1-benzylpiperidin-4-yl)-2,2-dimethylpropanoate | 21.5 g | C(C1=CC=CC=C1)N1CCC(CC1)CC(C(=O)OCC)(C)C | C19H29NO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(1-benzylpiperidin-4-yl)-2,2-dimethylpropanol | 19 g | C(C1=CC=CC=C1)N1CCC(CC1)CC(CO)(C)C | C17H27NO
